US07544697B2
A solution of sodium ethoxide in ethanol (21% by weight, 2.29 mL, 13.9 mmol) was added to a solution of N-[2-(3-cyano-1,5-diethyl-1H-pyrazol-4-yl)-5-methoxyphenyl]-2,2-dimethylpropanamide (0.5 g, 1.41 mmol) in ethanol (10 mL). The reaction mixture was stirred at room temperature for 20 minutes and then heated at reflux overnight. The reaction mixture was allowed to cool to room temperature and was concentrated under reduced pressure. The resulting residue was triturated with water to provide a solid that was isolated by filtration, washed with water, and dried. The material was purified by chromatography on a HORIZON HPFC system (silica gel, gradient elution with 0-20% CMA in chloroform) followed by crystallization from acetonitrile to yield 0.23 g of 1,2-diethyl-7-methoxy-2H-pyrazolo[3,4-c]quinolin-4-amine as beige needles, mp 210-211° C.

reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | N-[2-(3-cyano-1,5-diethyl-1H-pyrazol-4-yl)-5-methoxyphenyl]-2,2-dimethylpropanamide | 1.41 mmol, 0.5 g | C(#N)C1=NN(C(=C1C1=C(C=C(C=C1)OC)NC(C(C)(C)C)=O)CC)CC | C20H26N4O2
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | ethanol | 13.9 mmol, 2.29 mL | C(C)O | C2H6O
product | 1,2-diethyl-7-methoxy-2H-pyrazolo[3,4-c]quinolin-4-amine | 0.23 g | C(C)C=1N(N=C2C(=NC=3C=C(C=CC3C21)OC)N)CC | C15H18N4O
